US04147693
50.0 pts. by wt. of 1-(5-methylfurylideneamino)-2-oxo-imidazolidine, 84.3 pts. by wt. of triethylamine, 84.0 pts. by wt. of chlorotrimethylsilane and 51.4 pts. by wt. of phosgene are reacted as in Example 1.2. After recrystallisation from acetonitrile, 50.7 pts. by wt. of 1-chlorocarbonyl-2-oxo-3-(5-methylfurylideneamino)-imidazolidine of dec. pt. 180°-186° C. are obtained.

reactant | 1-(5-methylfurylideneamino)-2-oxo-imidazolidine | CC1=CCC(O1)=NN1C(NCC1)=O | C8H11N3O2
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-chlorocarbonyl-2-oxo-3-(5-methylfurylideneamino)-imidazolidine | ClC(=O)N1C(N(CC1)N=C1OC(=CC1)C)=O | C9H10ClN3O3
